US09227944B2
4-[4-(2-methyloxyphenyl)piperazinyl]butylamine: according to the method of claim 1, N-(4-bromobutyl)phthalimide and 2-methyloxyphenyl-piperazine was used in reaction to produce N-{4-[4-(2-methyloxyphenyl)piperazinyl]butyl}phthalimide, which was then reacted with hydrazine hydrate. The yield was: 84.3%. Hydrochloride salt had a mp: 173-175° C.

reactant | 4-[4-(2-methyloxyphenyl)piperazinyl]butylamine | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN | C15H25N3O
reactant | N-(4-bromobutyl)phthalimide | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | 2-methyloxyphenyl-piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | N-{4-[4-(2-methyloxyphenyl)piperazinyl]butyl}phthalimide | yield was: 84.3% | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C23H27N3O3
